US09428502B2
Compound 10.1. Methyl 4-cyclopropylbenzoate
Into a 1-L three neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution mixture of ZnBr2 (41.5 g, 184 mmol) and tetrahydrofuran (500 mL). The mixture was cooled to 0° C., then cyclopropylmagnesium bromide (2 M in THF) (92 mL, 184 mmol) was added drop-wise with stirring over 30 min. The mixture was then cooled to −40° C. and Pd(dppf)Cl2 (3.00 g, 4.1 mmol) was added portion-wise over 1 min. Methyl 4-bromobenzoate (10.0 g, 46.50 mmol) in THF (50 mL) was added drop-wise over 30 min at -40° C. The resulting mixture was allowed to warm to room temperature and stirred overnight. The reaction was then carefully quenched by the addition of aqueous NH4Cl (sat., 500 mL). The mixture was extracted with ethyl acetate (3×300 mL) and the combined organic layers were washed with brine (3×300 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with petroleum ether as the eluent to yield 8.87 g (crude) of the title compound as a yellow oil.

reactant | cyclopropylmagnesium bromide | 184 mmol, 2 M, 92 mL | C1(CC1)[Mg]Br
reactant | Methyl 4-bromobenzoate | 46.50 mmol, 10.0 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 184 mmol, 41.5 g | [Zn+2].[Br-].[Br-]
catalyst | Pd(dppf)Cl2 | 4.1 mmol, 3.00 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | Methyl 4-cyclopropylbenzoate | C1(CC1)C1=CC=C(C(=O)OC)C=C1 | C11H12O2
